US04072696
The 1,2-diamino-4-methylthiomethoxybenzene prepared above is dissolved in 60 ml. acetone and treated overnight with 6 g. methoxycarbonyl isothiocyanate at room temperature. The mixture is concentrated and the residue stirred with 500 ml. water and the brown solid filtered off. The residue is extracted with 250 ml. dichloromethane, filtered, treated with charcoal, and recrystallized from dichloromethanebenzene to afford 1,2-bis(3-methoxycarbonyl-2-thioureido)-4-methylthiomethoxybenzene.

reactant | 1,2-diamino-4-methylthiomethoxybenzene | NC1=C(C=C(C=C1)OCSC)N | C8H12N2OS
reactant | methoxycarbonyl isothiocyanate | COC(=O)N=C=S | C3H3NO2S
solvent | acetone | CC(=O)C | C3H6O
product | 1,2-bis(3-methoxycarbonyl-2-thioureido)-4-methylthiomethoxybenzene | COC(=O)NC(NC1=C(C=C(C=C1)OCSC)NC(=S)NC(=O)OC)=S | C14H18N4O5S3
